US06087380
A mixture of 2.05 g (5.14 mMol) of 2-methoxymethyl-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide and 5.7 ml (5.7 mMol) of a 1M solution of boron tribromide in dichloromethane was dissolved in a further 60 ml of dichloromethane and stirred for 16 hours at room temperature. Then the mixture was washed with 40 ml of saturated sodium hydrogen carbonate solution, the organic phase was dried with sodium sulphate and the solvent was distilled off. The crude 2-bromomethyl-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide thus obtained (2.4 g) was taken up in 5.0 ml of N,N-diisopropyl-ethylamine and mixed with 0.64 g (5.4 mMol) of 4-amino-benzonitrile. After 1 hour's heating to 130° C. the solvent was distilled off in vacuo and the crude product obtained was purified by flash chromatography (silica gel; gradient: ethyl acetate/petroleum ether=1:3 to 1:1), whilst an orange foam was obtained when the eluates were evaporated down. Yield: 1.1 g (44% of theory), Rf value: 0.35 (silica gel; ethyl acetate/petroleum ether=7:3)

reactant | 2-methoxymethyl-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | 5.14 mMol, 2.05 g | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)COC)C1)CCC(=O)OCC | C21H22N2O4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 2-bromomethyl-benzothiazole-5-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide | C1(=CC=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CBr)C1)CCC(=O)OCC | C20H19BrN2O3S
